US06458772B1
e) Iodomethyl 3,4-di-(N-CBZ-L-valyloxy)hydrocinnamate
Chloromethyl 3,4-di-(N-CBZ-L-valyloxy)hydrocinnamate (1.9 g, 2.7 mmol) and sodium iodide (2 g, 13.3 mmol) were dissolved in acetonitrile (50 ml) and heated to 65° C. for 60 min. The solvent was removed under reduced pressure and the residue was taken up in dichloromethane and filtrated. Removal of the solvent and purification by chromatography (ethyl acetate-hexane, 2:5) gave pure title product (1.9 g, 90%)

reactant | Chloromethyl 3,4-di-(N-CBZ-L-valyloxy)hydrocinnamate | 2.7 mmol, 1.9 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OC=1C=C(CCC(=O)OCCl)C=CC1OC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C36H41ClN2O10
reactant | sodium iodide | 13.3 mmol, 2 g | [I-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Iodomethyl 3,4-di-(N-CBZ-L-valyloxy)hydrocinnamate | 1.9 g, 90% | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OC=1C=C(CCC(=O)OCI)C=CC1OC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C36H41IN2O10
